US05502073
Dimethyl 1-acetylcyclohexane-1,4-dicarboxylate (see Process K) (26.5 g.) was added to a solution of concentrated hydrochloric acid (290 ml.) in ethanol (140 ml.). After refluxing for 7.5 hours, the reaction mixture was poured into water and then extracted with dichloromethane. The organic phase was then washed with saturated sodium bicarbonate solution and brine. After drying over anhydrous magnesium sulphate the solvent was removed under reduced pressure to give ethyl 4-acetylcyclohexanecarboxylate as a colourless oil. This was purified by distillation (b.p 144°-148° C./14 mm Hg.).

reactant | Dimethyl 1-acetylcyclohexane-1,4-dicarboxylate | 26.5 g | C(C)(=O)C1(CCC(CC1)C(=O)OC)C(=O)OC | C12H18O5
reactant | hydrochloric acid | 290 ml | Cl | ClH
reactant | water | O | H2O
reactant | ethanol | 140 ml | C(C)O | C2H6O
product | ethyl 4-acetylcyclohexanecarboxylate | C(C)(=O)C1CCC(CC1)C(=O)OCC | C11H18O3
